US04851422
In 2.4 ml of concentrated ammonia water was dissolved 150 mg of 4-benzyloxycarbonylamino-5-methoxycarbonyl-3-isoxazolidinone (mixture of 4,5-cis compound and -trans compound). The solution was left standing at room temperature for 20 minutes, which was concentrated to dryness under reduced pressure. Ether was added to the concentrate to give 138 mg of 4-benzyloxycarbonylamino-5-carbamoyl-3-isoxazolidinone as crystals.

reactant | 4-benzyloxycarbonylamino-5-methoxycarbonyl-3-isoxazolidinone | 150 mg | C(C1=CC=CC=C1)OC(=O)NC1C(NOC1C(=O)OC)=O | C13H14N2O6
reactant | ammonia water | 2.4 ml | O.N
product | 4-benzyloxycarbonylamino-5-carbamoyl-3-isoxazolidinone | 138 mg | C(C1=CC=CC=C1)OC(=O)NC1C(NOC1C(N)=O)=O | C12H13N3O5
